2195-03-24 06:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 83 y/o lady underwent Zenker's diverticulum repair
   today and then was found to have leak on UGI study.  She underwent
   distal esophageal defect.
   24 Hour Events:
 NASAL SWAB - At [**2195-3-23**] 11:39 PM
   No other overnight events. Pt denies pain this am.
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2195-3-23**] 10:44 PM
   Clindamycin - [**2195-3-24**] 04:57 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-3-23**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-24**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (66 - 85) bpm
   BP: 109/48(62) {88/32(46) - 118/76(72)} mmHg
   RR: 10 (10 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    681 mL
                                                                  1,186 mL
   PO:
             TF:
   IVF:
                                                                    681 mL
                                                                  1,186 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    615 mL
   Urine:
                                                                    330 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   45 mL
   Balance:
                                                                    351 mL
                                                                    571 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 189 (189 - 189) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 4.5 L/min
   Physical Examination
   Gen: sedated and intubated
   HEENT:  MMM, JP drain from neck incision
   Heart: S1S2 RRR
   Lungs: CTAB in anterior lung fields
   Abdomen: soft NTND
   Ext: WWP
   Neuro: limited by sedation
   Labs / Radiology
   109 K/uL
   9.9 g/dL
   169 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   9 mg/dL
   98 mEq/L
   128 mEq/L
   29.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2195-3-23**]  09:50 PM
                             [**2195-3-24**]  04:00 AM
   WBC
   13.3
   Hct
   31.2
   29.0
   Plt
   109
   Cr
   0.6
   Glucose
   169
   Other labs: PT / PTT / INR:14.1/45.0/1.2, Ca++:8.1 mg/dL, Mg++:2.4
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   83 y/o lady underwent Zenker's diverticulum repair today and then was
   found to have leak on UGI study.  She underwent distal esophageal
   defect.
   # Distal esophageal defect/Zenker's diverticulum:  Repaired in OR.
   Admitted to [**Hospital Unit Name 4**] for need to monitor for possible mediastinitis. Did
   well overnight.
   - continue to monitor for signs or symptoms of infection
   - continue clindamycin and flucanazole for now per ENT and thoracics
   recs
   - appreciate thoracics and ENT recs
   # S/p intubation: Intubated for procedures.  However there was a
   concern for airway edema.
   - plan to extubate this am while ENT present
   - need to touch base with ENT prior to extubation given concern for
   airway edema
   # Hypotension:  Most likely due to propofol.  Resolved with decreasing
   dose.
   - continue to monitor
   # Cardiac function: Holding home cardiac meds (diltiazem, metoprolol,
   lisinopril and ezetimibe).
   - Restart when pt tolerating PO
   - Consider short-acting IV BB if pt becomes hypertensive in the
   interim.
   # FEN: NPO for now; replete lytes prn
   # PPx: sc heparin
   # Code: Presumed full code
   # Contact: [**Name (NI) 50**] [**Telephone/Fax (1) 5108**]
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-23**] 09:16 PM
   20 Gauge - [**2195-3-23**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-26 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   83 y/o woman with history of Zenker's diverticulum, now status post
   endoscopic repair complicated by esophageal rupture, followed by open
   neck repair, POD 3.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2195-3-25**] 02:28 PM
 BLOOD CULTURED - At [**2195-3-25**] 05:48 PM
 NASAL SWAB - At [**2195-3-25**] 05:48 PM
 MIDLINE - START [**2195-3-25**] 05:57 PM
   Pt was on a dilt drip that was d/c
 per cards, pt was started on amio
   0.5-1mg/h
   Pt  is now in sinus tach
   Pt  denies any CP, or palpitations
   Pt complains of dry mouth, and mouth sores
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2195-3-26**] 12:04 AM
   Clindamycin - [**2195-3-26**] 05:41 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Diltiazem - [**2195-3-25**] 12:43 PM
   Heparin Sodium (Prophylaxis) - [**2195-3-26**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-26**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.4
   HR: 74 (73 - 129) bpm
   BP: 114/45(60) {92/19(44) - 141/70(89)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,181 mL
                                                                    419 mL
   PO:
             TF:
   IVF:
                                                                  1,181 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    465 mL
   Urine:
                                                                  1,075 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                   -904 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Neck/Lymphatic: Anterior neck drain, compression dressing, JP at neck
   w/ scant fluid
   Cardiovascular: RRR s m/g/r
   Chest: RLL rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, Cold extremities
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   109 K/uL
   9.9 g/dL
   120 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   8 mg/dL
   97 mEq/L
   129 mEq/L
   26.8 %
   13.3 K/uL
        [image002.jpg]
                             [**2195-3-23**]  09:50 PM
                             [**2195-3-24**]  04:00 AM
                             [**2195-3-24**]  02:09 PM
                             [**2195-3-25**]  11:07 AM
                             [**2195-3-25**]  06:42 PM
                             [**2195-3-25**]  09:50 PM
                             [**2195-3-26**]  05:12 AM
   WBC
   13.3
   Hct
   31.2
   29.0
   26.8
   Plt
   109
   Cr
   0.6
   0.6
   0.3
   0.4
   TropT
   <0.01
   <0.01
   Glucose
   169
   143
   102
   120
   Other labs: PT / PTT / INR:14.1/45.0/1.2, CK / CKMB /
   Troponin-T:21/3/<0.01, Albumin:2.2 g/dL, Ca++:8.2 mg/dL, Mg++:2.6
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Patient is a 83 y/o woman with history of Zenker's diverticulum, now
   status post endoscopic repair complicated by esophageal rupture,
   followed by open neck repair, POD 3.
   #  ATRIAL FIBRILLATION: Patient with history of A fib, now with
   hypotension secondary to tachycardia. Limited heart rate response to
   beta blocker with worsening hypotension, would favor not using for HR
   control, especially given NPO status and need for IV administration.
   Per cardiology recommendations pt was started on amiodorone drip, and
   reverted back into sinus. Pt was in sinus until rounds when whe went
   back into afib
   - give metop 5 IV x1, MR2
   - IVF: 500ml bolus b/c of pt
s associated hypotension
   - will likely start digoxin today
   - f/u cardiology recs
   #  HYPOTENSION: Given A fib with RVR, this is the most likely etiology,
   but would also consider infection/sepsis, especially in setting of
   known leakage of esophageal contents into mediastinium- IVF boluses
   when drops w/ afib
   #  LEUKOCYTOSIS: Concerning given above risk of mediastinitis, consider
   expanding antibiotics. . Continue Clindamycin and fluconazole, however
   suspect will need broader coverage of gram negatives and anaerobes. ID
   consult placed, appreciate their input.
   -- F/U ID Consult
   # ANEMIA: Pt
s hct dropped from 31 to 26, and new labs pending.
   Hematoma at sugical site would be greatest concern, but no signs of
   stridor or airway compression.
   - continue to moniter
   - stool guaics
   # PLEURAL EFFUSION: Pt has leukocytosis and pleural effusion. Will
   speak to thoracics on whether a thoracentesis would be useful for
   diagnositic purposes.
   #  PACER LEAD RIGHT VENTRICULAR PERFORATION: [**First Name8 (NamePattern2) **] [**Hospital1 17**] records, this
   was evaluated but unclear if repair took place. Given ongoing
   hypotension will obtain stat echo to evaluate for pericardial effusion
   / tamponade.
   #  SURGICAL BLEEDING: Patient with sanguinous drainage from JP drain in
   anterior neck. Also with firm anterior neck and with pain around site.
   Will monitor closely with low threshold for repeating imaging. CT scan
   this AM revealed a question of sub-optimal Zenker
s repair and a poorly
   identified peri-esophageal soft tissue mass.
   -- Type and crossed
   -- If bleeding continues, will need repeat CT, surgical evaluation.
   -- Monitor airway closely given concern for anterior neck compartment
   syndrome
   #   HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY): Serum osm of 265 would
   strongly argue against hypovolemic hyponatremia. Differential diagnosis
   for hyponatremia includes SIADH, central salt wasting and heart failure
   or other sodium avid state. Given bilateral pleural effusions, recent
   intrathoracic procedures would suspect SIADH is the most likely cause.
   - continue fluid restriction
   - continue to moniter as pt no longer getting D5
   Zenker's diverticulum and then esophageal defect repaired in OR.
   Strictly NPO given high concern for leakage
   -- Monitor closely
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-3-25**] 12:53 PM
   22 Gauge - [**2195-3-25**] 12:53 PM
   Midline - [**2195-3-25**] 05:57 PM
   Prophylaxis:
   DVT:  SQH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-27 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 83 y/o woman with history of Zenker's
   diverticulum, now status post endoscopic repair complicated by
   esophageal rupture, followed by open neck repair, POD 3.
   24 Hour Events:
 MIDLINE - STOP [**2195-3-26**] 02:01 PM
 PICC LINE - START [**2195-3-26**] 04:01 PM
   Allergies:
   Penicillins-Unknown;
   Shellfish Derived-Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2195-3-26**] 10:18 PM
   Fluconazole - [**2195-3-27**] 12:14 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-3-26**] 07:58 AM
   Metoprolol - [**2195-3-26**] 06:43 PM
   Heparin Sodium (Prophylaxis) - [**2195-3-27**] 12:14 AM
   Morphine Sulfate - [**2195-3-27**] 02:00 AM
   Other medications: see below
   Flowsheet Data as of  [**2195-3-27**] 07:09 AM
   Vital signs
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 79 (76 - 138) bpm
   BP: 134/54(74) {95/40(59) - 149/77(92)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                Total In:
                                                                  1,354 mL
                                                                    706 mL
   PO:
                TF:
   IVF:
                                                                  1,060 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    435 mL
   Urine:
                                                                  1,485 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -131 mL
                                                                    271 mL
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Neck/Lymphatic: Anterior neck drain, compression dressing, JP at neck
   w/ scant fluid
   Cardiovascular: RRR s m/g/r
   Chest: RLL rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, Cold extremities
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   138 K/uL
   8.7 g/dL
   554 mg/dL
   0.4 mg/dL
   26 mEq/L
   5.2 mEq/L
   14 mg/dL
   97 mEq/L
   125 mEq/L
   27.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2195-3-23**]  09:50 PM
                             [**2195-3-24**]  04:00 AM
                             [**2195-3-24**]  02:09 PM
                             [**2195-3-25**]  11:07 AM
                             [**2195-3-25**]  06:42 PM
                             [**2195-3-25**]  09:50 PM
                             [**2195-3-26**]  05:12 AM
                             [**2195-3-26**]  10:09 AM
                             [**2195-3-27**]  03:53 AM
   WBC
   13.3
   8.1
   6.8
   Hct
   31.2
   29.0
   26.8
   26.1
   27.0
   Plt
   109
   119
   138
   Cr
   0.6
   0.6
   0.3
   0.4
   0.4
   0.4
   TropT
   <0.01
   <0.01
   Glucose
   169
   143
   102
   120
   114
   554
   Other labs: PT / PTT / INR:14.1/45.0/1.2, CK / CKMB /
   Troponin-T:21/3/<0.01, Differential-Neuts:79.0 %, Band:0.0 %,
   Lymph:14.4 %, Mono:5.0 %, Eos:1.5 %, Albumin:2.2 g/dL, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   Patient is a 83 y/o woman with history of Zenker's diverticulum, now
   status post endoscopic repair complicated by esophageal rupture,
   followed by open neck repair, POD 3.
 ATRIAL FIBRILLATION (AFIB): Patient with history of A fib, now with
   hypotension secondary to tachycardia. Limited heart rate response to
   beta blocker with worsening hypotension, would favor not using for HR
   control, especially given NPO status and need for IV administration.
   Per cardiology recommendations pt was started on amiodorone drip, and
   reverted back into sinus. Pt was in sinus until rounds when whe went
   back into afib
   - give metop 5 IV x1, MR2
   - IVF: 500ml bolus b/c of pt
s associated hypotension
   - will likely start digoxin today
   - f/u cardiology recs
 HYPOTENSION (NOT SHOCK): Given A fib with RVR, this is the most
   likely etiology, but would also consider infection/sepsis, especially
   in setting of known leakage of esophageal contents into mediastinium-
   IVF boluses when drops w/ afib
   #  LEUKOCYTOSIS: Concerning given above risk of mediastinitis, consider
   expanding antibiotics. . Continue Clindamycin and fluconazole, however
   suspect will need broader coverage of gram negatives and anaerobes. ID
   consult placed, appreciate their input.
   -- F/U ID Consult
   # ANEMIA: Pt
s hct dropped from 31 to 26, and new labs pending.
   Hematoma at sugical site would be greatest concern, but no signs of
   stridor or airway compression.
   - continue to moniter
   - stool guaics
   # PLEURAL EFFUSION: Pt has leukocytosis and pleural effusion. Will
   speak to thoracics on whether a thoracentesis would be useful for
   diagnositic purposes.
   #  PACER LEAD RIGHT VENTRICULAR PERFORATION: [**First Name8 (NamePattern2) **] [**Hospital1 17**] records, this
   was evaluated but unclear if repair took place. Given ongoing
   hypotension will obtain stat echo to evaluate for pericardial effusion
   / tamponade.
   #  SURGICAL BLEEDING: Patient with sanguinous drainage from JP drain in
   anterior neck. Also with firm anterior neck and with pain around site.
   Will monitor closely with low threshold for repeating imaging. CT scan
   this AM revealed a question of sub-optimal Zenker
s repair and a poorly
   identified peri-esophageal soft tissue mass.
   -- Type and crossed
   -- If bleeding continues, will need repeat CT, surgical evaluation.
   -- Monitor airway closely given concern for anterior neck compartment
   syndrome
   #   HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY): Serum osm of 265 would
   strongly argue against hypovolemic hyponatremia. Differential diagnosis
   for hyponatremia includes SIADH, central salt wasting and heart failure
   or other sodium avid state. Given bilateral pleural effusions, recent
   intrathoracic procedures would suspect SIADH is the most likely cause.
   - continue fluid restriction
   - continue to moniter as pt no longer getting D5
   Zenker's diverticulum and then esophageal defect repaired in OR.
   Strictly NPO given high concern for leakage
   -- Monitor closely
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2195-3-26**] 06:08 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-3-26**] 04:01 PM
   20 Gauge - [**2195-3-26**] 06:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:
   Code status: Full code
   Disposition:
                      Active Medications [**Known lastname **],[**Known firstname **]
           1. IV access: Peripheral line Order date: [**3-25**] @ 1307
   12. Metoprolol Tartrate 5 mg IV ONCE Duration: 1 Doses Order date:
   [**3-26**] @ 1256
   2. IV access: PICC, heparin dependent Location: Left basilic, Date
   inserted: [**2195-3-25**] Order date: [**3-25**] @ 1612
   13. Metoprolol Tartrate 7.5 mg IV Q6H
   Hold for SBP<110, HR<80  Order date: [**3-26**] @ 1527
   3. 500 mL NS Bolus 500 ml Over 60 mins Order date: [**3-26**] @ 0951
   14. Morphine Sulfate 2-8 mg IV Q2H:PRN  Order date: [**3-25**] @ 1307
   4. Acetylcysteine 20% 6-10 mL NEB Q2H:PRN  Order date: [**3-25**] @ 1307
   15. Nitroglycerin SL 0.3 mg SL PRN  Order date: [**3-25**] @ 1307
   5. Amiodarone 1 mg/min IV INFUSION
   Please note dose increase  Order date: [**3-26**] @ 1245
   16. Ondansetron 4 mg IV ONCE Duration: 1 Doses Order date: [**3-26**] @ 1350
   6. Clindamycin 600 mg IV Q8H  Order date: [**3-25**] @ 1307
   17. Ondansetron 4 mg IV ONCE Duration: 1 Doses Order date: [**3-27**] @ 0158
   7. Fluconazole 200 mg IV Q24H  Order date: [**3-25**] @ 1307
   18. Pantoprazole 40 mg IV Q24H  Order date: [**3-25**] @ 1528
   8. Heparin 5000 UNIT SC TID  Order date: [**3-25**] @ 1307
   19. Potassium Chloride 20 mEq / 50 ml SW IV ONCE Duration: 1 Doses
   Order date: [**3-26**] @ 1533
   9. Heparin Flush (10 units/ml) 2 mL IV PRN line flush
   PICC, heparin dependent: Flush with 10mL Normal Saline followed by
   Heparin as above daily and PRN per lumen.  Order date: [**3-25**] @ 1612
   20. Prochlorperazine 5 mg IV ONCE Duration: 1 Doses Order date: [**3-27**] @
   0658
   10. IV access request: PICC Place Indication: TPN Urgency: Please place
   today for TPN Order date: [**3-25**] @ 1307
   21. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**3-25**] @ 1307
   11. Metoprolol Tartrate 5 mg IV ONCE Duration: 1 Doses Order date:
   [**3-26**] @ 0951